US09101616B2
(R)-5-tert-butyl-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)isoxazole-3-carbox amide
To a suspension of (R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethanamine 2HCl salt (18 mg, 0.06 mmol) and 5-tert-butylisoxazole-3-carboxylic acid (10 mg, 0.06 mmol) in dichloromethane (2 mL) were added triethylamine (19 mg, 0.18 mmol), EDC (19 mg, 0.1 mmol) and HOBT (9.4 mg, 0.06 mmol) respectively. The reaction mixture was stirred at room temperature for 18 hours. The solvent was evaporated by N2-flow. The resulting residue was dissolved into ethyl acetate and water was added to the mixture. The organic layer was then washed with brine, and dried over sodium sulfate. After the filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give the residue. The residue was diluted with methanol and applied onto a strong cation exchange cartridge (BondElute(registered trademark) SCX, 1 g/6 mL, Varian Inc.), and the solid phase matrix was rinsed with methanol (6 mL). The crude mixture was eluted in a collection tube with 1 mol/L ammonia in methanol (6 mL) and concentrated in vacuo. The residue was purified by preparative LC-MS to give 17 mg, (75% yield) of the title compound.

reactant | (R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethanamine 2HCl salt | 0.06 mmol, 18 mg | Cl.Cl.FC(COC=1C=CC(=NC1)[C@@H](C)N)(F)F
reactant | 5-tert-butylisoxazole-3-carboxylic acid | 0.06 mmol, 10 mg | C(C)(C)(C)C1=CC(=NO1)C(=O)O | C8H11NO3
reactant | triethylamine | 0.18 mmol, 19 mg | C(C)N(CC)CC | C6H15N
reactant | EDC | 0.1 mmol, 19 mg
reactant | HOBT | 0.06 mmol, 9.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | (R)-5-tert-butyl-N-(1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)isoxazole-3-carbox amide | 75% yield | C(C)(C)(C)C1=CC(=NO1)C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C17H20F3N3O3
